US06107301
1-(2-Bromo-4-isopropylphenyl)-3-cyano-4,6-dimethyl-7-azaindole
Part C: A mixture of 18.51 g (0.0609 mole) of 1-(2-bromo-4-isopropylphenyl)-2-amino-4-cyano-pyrrole, 300 mL of ethanol, 0.6 mL of conc. hydrochloric acid, and 10 mL (9.75 g, 0.0974 mole) of 2,4-pentanedione was refluxed with stirring under a nitrogen atmosphere for 4 hrs. The mixture was allowed to cool and the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate. The solution was washed with 10% sodium bicarbonate solution, then with brine. The solution was dried with anhydrous sodium sulfate and evaporated to give 21.76 g of dark, tarry residue. The residue was chromatographed on silica gel by eluting in step gradients of 0, 10, 15, 20, 25, and 30% ethyl acetate in hexane. The initial fraction is 17.6 g (78%) 1-(2-bromo-4-isopropylphenyl)-3-cyano-4,6-dimethyl-7-azaindole; m.p. 105.8°. Mass spec: (m+H° =368.0749; calculated, 368.0762 (79Br). Rf =0.45 on silica gel thin layer chromatography with 70:30 hexane-ethyl acetate.

reactant | 1-(2-bromo-4-isopropylphenyl)-2-amino-4-cyano-pyrrole | 0.0609 mole, 18.51 g | BrC1=C(C=CC(=C1)C(C)C)N1C(=CC(=C1)C#N)N | C14H14BrN3
reactant | hydrochloric acid | 0.6 mL | Cl | ClH
reactant | 2,4-pentanedione | 0.0974 mole, 10 mL, 9.75 g | CC(CC(C)=O)=O | C5H8O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 1-(2-Bromo-4-isopropylphenyl)-3-cyano-4,6-dimethyl-7-azaindole | BrC1=C(C=CC(=C1)C(C)C)N1C=C(C2=C(C=C(N=C12)C)C)C#N | C19H18BrN3
